US08258293B2
1-Acetyl-6-(2-methoxycarbonylethylcarbonyloxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Acylation of 1-acetyl-6-(2-hydroxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (20 mg) with 3-carbomethoxypropionyl chloride (14 mg) and N,N-diisopropylethylamine (40 μl) in tetrahydrofuran (2 ml) was performed according to the method described in example 6.

reactant | 1-acetyl-6-(2-hydroxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 20 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C=CC=C1)O)=O)(C)C1=CC=CC=C1)(C)C | C27H28N2O3
reactant | 3-carbomethoxypropionyl chloride | 14 mg | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
reactant | N,N-diisopropylethylamine | 40 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-6-(2-methoxycarbonylethylcarbonyloxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C=CC=C1)OC(=O)CCC(=O)OC)=O)(C)C1=CC=CC=C1)(C)C | C32H34N2O6
